US04556711
(c) 5-(4-Ethoxycarbonylaminophenyl)-2(1H)-pyrazinone
Ethyl N-hydroxy-N-phenylcarbamate (7.9 g) was added to a solution of potassium hydroxide (2.45 g) in ethanol (125 ml). After the solution had been stirred for 30 minutes, chloropyrazine (5 g) and a small amount of molecular sieve (4A) pellets were added. The solution was stirred for two hours and allowed to stand for 144 hours to give a dark brown solution. This solution was evaporated under reduced pressure to give an oil which was washed with dilute acetic acid and solidified. This solid was recrystallised from n-propanol, stirred with water for two hours to remove salts, collected and dried to afford the title compound (1.8 g), m.p. 260°-262° C.

reactant | Ethyl N-hydroxy-N-phenylcarbamate | 7.9 g | ON(C(OCC)=O)C1=CC=CC=C1 | C9H11NO3
reactant | potassium hydroxide | 2.45 g | [OH-].[K+]
reactant | chloropyrazine | 5 g | ClC1=NC=CN=C1 | C4H3ClN2
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 5-(4-Ethoxycarbonylaminophenyl)-2(1H)-pyrazinone | 1.8 g | C(C)OC(=O)NC1=CC=C(C=C1)C=1N=CC(NC1)=O | C13H13N3O3
